US04537616
4-dimethylaminopyridine;
triethyl amine; and trimethylamine.

reactant | trimethylamine | CN(C)C | C3H9N
reactant | triethyl amine | C(C)N(CC)CC | C6H15N
product | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
